US05073556
20 ml of concentrated aqueous nitric acid (d=1.42) were added dropwise, whilst stirring and cooling with water, to a solution of 15.0 g (0.062 moles) of 3-difluoromethoxy-2,4,5-trifluorobenzoic acid [(XXV), X=X'=F] (prepared as described in Preparation 1, 2 or 3) in 40 ml of concentrated aqueous sulfuric acid, and the mixture was stirred at 60° C. for 7 hours. At the end of this time, it was allowed to stand to cool to room temperature, and then the reaction mixture was poured into ice-water, and extracted with diethyl ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate; the solvent was then removed by evaporation under reduced pressure, to give 16.6 g of 3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoic acid as a yellow powder, melting at 77°-80° C.

reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
reactant | 3-difluoromethoxy-2,4,5-trifluorobenzoic acid | 0.062 moles, 15.0 g | FC(OC=1C(=C(C(=O)O)C=C(C1F)F)F)F | C8H3F5O3
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoic acid | 16.6 g | FC(OC=1C(=C(C(=O)O)C(=C(C1F)F)[N+](=O)[O-])F)F | C8H2F5NO5
